US05481032
12.4 g (0.05 mol) of 2-chloro-4-fluoro-4'-methylbenzophenone in 30 ml of tetrahydrofuran were added dropwise to a solution of 19.0 g (0.1 mol) of toluene-4-sulfonic acid hydrate and 3.8 g (0.1 mol) of 90% hydrogen peroxide in 100 ml of tetrahydrofuran. The mixture was subsequently stirred for 12 h at 20° C. and then diluted with 100 g of water. Further processing as described in Example 22 gave 7.6 g (43.5 mmol, 87%) of 2-chloro-4-fluorobenzoic acid (m.p. 181°-186° C.).

reactant | 2-chloro-4-fluoro-4'-methylbenzophenone | 0.05 mol, 12.4 g | ClC1=C(C(=O)C2=CC=C(C=C2)C)C=CC(=C1)F | C14H10ClFO
reactant | toluene-4-sulfonic acid hydrate | 0.1 mol, 19.0 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | hydrogen peroxide | 0.1 mol, 3.8 g | OO | H2O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | 100 g | O | H2O
product | 2-chloro-4-fluorobenzoic acid | 43.5 mmol, 7.6 g, 87% | ClC1=C(C(=O)O)C=CC(=C1)F | C7H4ClFO2
